* source RAILLROAD
X_U1         0 N14428 MLV0603E31403T PARAMS: TOL=0
R_R1         N14428 0  1k TC=0,0 
V_V1         N14428 0 12Vdc
V_V2         N14601 0  
+PULSE 0 1000 1m 20u 20u 1u 20m
R_R2         N14601 N14428  1 TC=0,0 
